US08278304B2
4-hydroxy-2-(1H-pyrazol-1-yl)pyrimidine-5-carboxylic acid
To 1H-pyrazole-1-carboximidamide hydrochloride (44.22 g, 299 mmol) in EtOH (500 mL) was added sodium methoxide (102 mL, 448 mmol, 25 wt % in MeOH) and diethyl ethoxymethylenemalonate (61.0 mL, 299 mmol, 99%). The reaction was heated for about 40 min at 75° C. and then cooled slightly (71° C.) before adding potassium hydroxide (33.5 g, 597) in water (125 mL). The reaction was heated to 75° C. for 1 h. During this time an additional portion of EtOH (100 mL) was added to improve mixing. The reaction was cooled to 40° C. before adding aq. HCl (81.3 mL, 991 mmol, 37%) in portions. The reaction aged for 1 h 40 min and then Et2O (180 mL) was added. The solids were filtered and rinsed with EtOH, Et2O and then hexane. The solid was then suspended in aq. HCl (300 mL, 0.67 M), filtered and washed with aq. HCl (300 mL, 1 M), 2:1 Et2O:EtOH (350 mL), 1:1 Et2O:EtOH (200 mL), Et2O (150 mL) and hexane (150 mL) to afford the title compound. HPLC/MS: 207.2 (M+1); Rt=0.61 min.

reactant | 1H-pyrazole-1-carboximidamide hydrochloride | 299 mmol, 44.22 g | Cl.N1(N=CC=C1)C(N)=N
reactant | sodium methoxide | 448 mmol, 102 mL | C[O-].[Na+]
reactant | diethyl ethoxymethylenemalonate | 299 mmol, 61.0 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | potassium hydroxide | 33.5 g | [OH-].[K+]
reactant | HCl | 991 mmol, 81.3 mL | Cl | ClH
solvent | EtOH | 500 mL | CCO | C2H6O
solvent | water | 125 mL | O | H2O
solvent | EtOH | 100 mL | CCO | C2H6O
solvent | Et2O | 180 mL | CCOCC | C4H10O
product | 4-hydroxy-2-(1H-pyrazol-1-yl)pyrimidine-5-carboxylic acid | OC1=NC(=NC=C1C(=O)O)N1N=CC=C1 | C8H6N4O3
